US08247421B2
Step 4: tert-butyl 4-((1R)-1-(5-cyano-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidin-2-ylamino)ethyl)piperidine-1-carboxylate
(R)-tert-butyl 4-(1-aminoethyl)piperidine-1-carboxylate (43.82 mg, 0.19 mmol) was added to a solution of 2-(perfluorophenoxy)-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile (100 mg, 0.16 mmol) and the reaction mixture was stirred at room temperature for 2 hours. The crude mixture was concentrated to dryness and the resulting residue was purified on silica gel by flash column chromatography to afford the title compound (70 mg, 65% yield).

reactant | (R)-tert-butyl 4-(1-aminoethyl)piperidine-1-carboxylate | 0.19 mmol, 43.82 mg | N[C@H](C)C1CCN(CC1)C(=O)OC(C)(C)C | C12H24N2O2
reactant | 2-(perfluorophenoxy)-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile | 0.16 mmol, 100 mg | FC1=C(OC2=NC=C(C(=N2)C2=CN(C3=NC=C(C=C32)C(F)(F)F)S(=O)(=O)C3=CC=C(C)C=C3)C#N)C(=C(C(=C1F)F)F)F | C26H11F8N5O3S
product | tert-butyl 4-((1R)-1-(5-cyano-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidin-2-ylamino)ethyl)piperidine-1-carboxylate | 70 mg, 65% yield | C(#N)C=1C(=NC(=NC1)N[C@H](C)C1CCN(CC1)C(=O)OC(C)(C)C)C1=CN(C2=NC=C(C=C21)C(F)(F)F)S(=O)(=O)C2=CC=C(C)C=C2 | C32H34F3N7O4S
